US05250543
a) Preparation of 2-cyanoethyl acetoacetate
A mixture of 16.33 g (0.23 mole) of 3-hydroxy-propionitrile and 28.4 g (0.20 mole) of 2,2,6-trimethyl-1,3-dioxen-4-one in the presence of 0.1 ml of triethylamine is heated to 90°-100° C. for 4 hrs 30 mins.

reactant | 3-hydroxy-propionitrile | 0.23 mole, 16.33 g | OCCC#N | C3H5NO
reactant | 2,2,6-trimethyl-1,3-dioxen-4-one | 0.20 mole, 28.4 g | CC1=CC(=O)OC(O1)(C)C | C7H10O3
solvent | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
product | 2-cyanoethyl acetoacetate | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
